US09169242B2
Step 2: Methyl 4-bromo-3-methylthiophene-2-carboxylate:
A solution of methyl 3-methylthiophene-2-carboxylate (20 g, 103 mmol, 1.0 eq) and sodium hydroxide (12.3 g, 307 mmol, 3 eq) in acetic acid (75 mL) was heated to 60° C. Bromine (46.9 g, 294 mmol, 2.85 eq) was added drop wise at such a rate so as to maintain the temperature of the reaction mixture at <85° C. The resulting mixture was stirred at 85° C. for 6 h. The solution was then allowed to cool to 50° C. and zinc dust (15.4 g, 236 mmol, 2.3 eq) was added in 3 gram portions to the reaction such that the exotherm was controlled to remain below 85° C. The resulting mixture was stirred at 85° C. for 1 h, and then filtered hot through a small bed of celite. Water (300 mL) was added and the mixture was extracted with hexane (300 mL). The organic phase was washed with water, then concentrated to dryness to give 27 g (89%) an off white oil which slowly crystallized upon standing at room temperature. 1HNMR (400 MHz, CDCl3) δ 7.43 (s, 1H), 3.87 (s, 3H), 2.56 (s, 3H)

reactant | methyl 3-methylthiophene-2-carboxylate | 103 mmol, 20 g, 1.0 eq | CC1=C(SC=C1)C(=O)OC | C7H8O2S
reactant | sodium hydroxide | 307 mmol, 12.3 g, 3 eq | [OH-].[Na+]
reactant | Bromine | 294 mmol, 46.9 g, 2.85 eq | BrBr | Br2
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 236 mmol, 15.4 g, 2.3 eq | [Zn] | Zn
product | Methyl 4-bromo-3-methylthiophene-2-carboxylate | BrC=1C(=C(SC1)C(=O)OC)C | C7H7BrO2S
